US07615568B2
B. 3-[2-(2-tert-Butoxycarbonylaminoethoxy)-4-(methylthio)-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide
Using a procedure analogous to Example 1-G, 2-(2-tert-butoxycarbonylaminoethoxy)-4-(methylthio)benzoic acid and 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide gave the desired product as a solid (4.0 g, 79%).

reactant | 2-(2-tert-butoxycarbonylaminoethoxy)-4-(methylthio)benzoic acid | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)O)C=CC(=C1)SC | C15H21NO5S
reactant | 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
product | 3-[2-(2-tert-Butoxycarbonylaminoethoxy)-4-(methylthio)-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 4.0 g, 79% | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)SC | C26H28ClN5O5S
